US07863450B2
A suspension of 6-chloronicotinic acid (3.2 g, 20.4 mmol) and 2-amino-2-methyl-1,3-propanediol (2.1 g, 20 mmol) in xylenes (mixture of isomers, 80 ml) is heated at reflux under Dean-Stark conditions for 24 h, during which the mixture clarifies. Upon cooling to room temperature, a solid settles down. The mixture is filtered through a silicagel column, eluting first with hexane to remove the xylenes and then with ethyl acetate to afford 1.8 g of [2-(6-chloropyridin-3-yl)-4-methyl-4,5-dihydro-1,3-oxazol-4-yl]methanol ax55.

reactant | 6-chloronicotinic acid | 20.4 mmol, 3.2 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 2-amino-2-methyl-1,3-propanediol | 20 mmol, 2.1 g | NC(CO)(CO)C | C4H11NO2
product | [2-(6-chloropyridin-3-yl)-4-methyl-4,5-dihydro-1,3-oxazol-4-yl]methanol | 1.8 g, Yield: 40% | ClC1=CC=C(C=N1)C=1OCC(N1)(C)CO | C10H11ClN2O2
